US08202858B2
4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-butoxy}-3-fluoro-benzoic Acid
Sodium hydroxide (0.5 g, 13.2 mmol) and water (5 ml) were added to a solution of 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-butoxy}-3-fluoro-benzoic acid ethyl ester from Example E72.2 (1.35 g, 3.3 mmol) in dioxan (20 ml). The mixture was stirred for 1 h at room temperature then heated at 60° C. for 20 h. Solvents were concentrated in vacuo and azeotroped with toluene. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:19% methanol:80% chloroform) to yield the title compound (0.85 g, 67%).

reactant | Sodium hydroxide | 13.2 mmol, 0.5 g | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-butoxy}-3-fluoro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OCCCCN1CCN(CC1)CCC(C)(C)C)F)=O | C23H37FN2O3
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-butoxy}-3-fluoro-benzoic Acid | 0.85 g, 67% | CC(CCN1CCN(CC1)CCCCOC1=C(C=C(C(=O)O)C=C1)F)(C)C | C21H33FN2O3
